US06906063B2
Preparation of {[4-(5-chloro-1,3-dioxobenzo[c]azolidin-2-yl)-3-methylphenyl]amino}-N-(phenylsulfonimidoyl)carboxamide
To 10 mg (0.016 mmol) of {[4-(5-chloro-1,3-dioxobenzo[c]azolidin-2-yl)-3-methylphenyl]-amino}-N-(N-p-methoxybenzylphenylsulfonimidoyl)carboxamide dissolved in 380 μL of CAN followed by 96 μL of water was added 70 mg (0.13 mmol) of cerric ammonium nitrate. After 20 m, the reaction was complete and purified by RP-HPLC to give 1.8 mg (23%) after lyophilization. ES-MS (M+H)+=469 (Cl).

reactant | {[4-(5-chloro-1,3-dioxobenzo[c]azolidin-2-yl)-3-methylphenyl]-amino}-N-(N-p-methoxybenzylphenylsulfonimidoyl)carboxamide | 0.016 mmol, 10 mg | ClC1=CC2=C(C(N(C2=O)C2=C(C=C(C=C2)NC(=O)NS(=O)(=NCC2=CC=C(C=C2)OC)C2=CC=CC=C2)C)=O)C=C1 | C30H25ClN4O5S
reactant | water | 96 μL | O | H2O
reactant | ammonium nitrate | 0.13 mmol, 70 mg | [N+](=O)([O-])[O-].[NH4+]
solvent | CAN | 380 μL | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | {[4-(5-chloro-1,3-dioxobenzo[c]azolidin-2-yl)-3-methylphenyl]amino}-N-(phenylsulfonimidoyl)carboxamide | ClC1=CC2=C(C(N(C2=O)C2=C(C=C(C=C2)NC(=O)NS(=O)(=N)C2=CC=CC=C2)C)=O)C=C1 | C22H17ClN4O4S
